US08748624B2
STEP D: methyl 5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)(methyl)amino)methyl)phenyl)picolinate
Methyl 5-(2-(bromomethyl)-5-chlorophenyl)picolinate (200 mg, 0.59 mmol), 4′-chloro-N-methyl-[1,1′-biphenyl]-4-amine (141 mg, 0.65 mmol), and K2CO3 (122 mg, 0.88 mmol) were diluted with acetone (3 mL) and heated to 50° C. After 18 h the resulting mixture was diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | Methyl 5-(2-(bromomethyl)-5-chlorophenyl)picolinate | 0.59 mmol, 200 mg | BrCC1=C(C=C(C=C1)Cl)C=1C=CC(=NC1)C(=O)OC | C14H11BrClNO2
reactant | 4′-chloro-N-methyl-[1,1′-biphenyl]-4-amine | 0.65 mmol, 141 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC | C13H12ClN
reactant | K2CO3 | 0.88 mmol, 122 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 5-(5-chloro-2-(((4′-chloro-[1,1′-biphenyl]-4-yl)(methyl)amino)methyl)phenyl)picolinate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)OC)CN(C)C1=CC=C(C=C1)C1=CC=C(C=C1)Cl | C27H22Cl2N2O2
